US05585247
Preparation of 2-phenyl-6-hydroxybenzoxazole
0.005 mol of 4-aminoresorcinol hydrochloride were dissolved in 7.5 ml of benzoyl chloride, while heating, and the solution was then boiled under reflux for 7 hours. The excess benzoyl chloride was subsequently distilled off in vacuo, 10 ml of ethanol were added to the residue and the mixture was boiled up briefly and, after cooling, rendered alkaline with 10 M NaOH solution. The alkaline solution was introduced into 200 ml of water and brought to pH 3 with concentrated hydrochloric acid, using a pH-meter. The crystal mass which precipitated here was filtered off with suction and recrystallized from 15 ml of toluene. The dried product (250 mg) was uniform according to thin layer chromatography (silica gel plate, ethyl acetate/glacial acetic acid 24:1).

reactant | 4-aminoresorcinol hydrochloride | 0.005 mol | Cl.NC1=C(C=C(O)C=C1)O
reactant | benzoyl chloride | 7.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-phenyl-6-hydroxybenzoxazole | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)O | C13H9NO2
